US03994900
c. N-[4-[2-(Dimethylamino)ethoxy]phenyl]-3-phenyl-2-propenamide, hydrochloride (1:1)
The reaction between 27.0g of 4-[2-(dimethylamino)-ethoxy]benzenamine and 24.9g of cinnamoyl chloride (using the procedure of Example 4, part b) gives 52.0g of crystals, melting point 257°-259° C, dec. Crystallization from a solution of 500 ml of methanol and 30 ml of water yields 43.1g of product, melting point 263°-265° C.

reactant | 4-[2-(dimethylamino)-ethoxy]benzenamine | 27.0g | CN(CCOC1=CC=C(C=C1)N)C | C10H16N2O
reactant | cinnamoyl chloride | 24.9g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
product | N-[4-[2-(Dimethylamino)ethoxy]phenyl]-3-phenyl-2-propenamide, hydrochloride | 52.0g | Cl.CN(CCOC1=CC=C(C=C1)NC(C=CC1=CC=CC=C1)=O)C | InChI=1S/C19H22N2O2.ClH/c1-21(2)14-15-23-18-11-9-17(10-12-18)20-19(22)13-8-16-6-4-3-5-7-16;/h3-13H,14-15H2,1-2H3,(H,20,22);1H
